US05491172
3-[2,4,6-Tris(1-methylethyl)phenyl]propionic acid, methyl ester (2.12 g, 7.3 mmol) was dissolved in 100 mL methanol and 10 mL water. Sodium hydroxide (0.32 g, 8.0 mmol) was added and the resulting solution was stirred at room temperature for 4 hours. Concentrated in vacuo and partitioned the residue between water and diethyl ether. The aqueous layerwas acidified with concentrated HCl and extracted with dichloromethane. Theorganic extract was dried over MgSO4, filtered, and concentrated to give 1.87 g of 3-[2,4,6-tris(1-methylethyl)phenyl]propionic acid as a white solid, mp 194°-196° C.

reactant | 3-[2,4,6-Tris(1-methylethyl)phenyl]propionic acid, methyl ester | 7.3 mmol, 2.12 g | CC(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)CCC(=O)OC | C19H30O2
reactant | Sodium hydroxide | 8.0 mmol, 0.32 g | [OH-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 3-[2,4,6-tris(1-methylethyl)phenyl]propionic acid | 1.87 g | CC(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)CCC(=O)O | C18H28O2
